US05439925
4-[2-(5,6,7,8-Tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)propionamido]benzoic acid
650 mg (1.7 mmol) of 4-(α-methylene-5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthylacetamido)benzoic acid, 100 mg of palladium on charcoal (10%) and 100 ml of dioxane are introduced into a reactor. The mixture is hydrogenated at room temperature and under a pressure of 7 bars for 2 h, the catalyst is filtered off and the filtrate is evaporated. The residue obtained is ground in the minimum amount of ethyl ether, filtered off and dried. 580 mg (89%) of acid, melting point 195°-6° C., is obtained.

reactant | 4-(α-methylene-5,6,7,8-tetrahydro-5,5,8,8-tetramethyl-2-naphthylacetamido)benzoic acid | 1.7 mmol, 650 mg | C=C(C(=O)NC1=CC=C(C(=O)O)C=C1)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C24H27NO3
reactant | dioxane | 100 ml | O1CCOCC1 | C4H8O2
catalyst | palladium on charcoal | 100 mg | [Pd] | Pd
solvent | ethyl ether | C(C)OCC | C4H10O
product | 4-[2-(5,6,7,8-Tetrahydro-5,5,8,8-tetramethyl-2-naphthyl)propionamido]benzoic acid | 580 mg, 89% | CC1(C=2C=CC(=CC2C(CC1)(C)C)C(C(=O)NC1=CC=C(C(=O)O)C=C1)C)C | C24H29NO3
